US09210927B2
Preparation of 2-(4-Vinylphenoxy)isoindoline-1,3-dione (CI76)
To a stirred solution of 4-vinylphenylboronic acid (2 g, 13 mmol), 2-hydroxyisoindoline-1,3-dione (3.63 g, 24.53 mmol), and CuCl (1.214 g 12.26 mmol) in 1,2-dichloroethane (50 mL) was added pyridine (1.065 g, 13.48 mmol), and the resultant reaction mixture was stirred at ambient temperature for 48 h. The reaction mixture was diluted with H2O and extracted with CHCl3. The combined CHCl3 layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure. Purification by flash column chromatography (SiO2; 20% EtOAc in petroleum ether) afforded the title compound as a white solid (2 g, 63%): mp 129-131° C.; 1H NMR (400 MHz, CDCl3) δ 7.93 (d, J=2.0 Hz, 2H), 7.82 (d, J=3.2 Hz, 2H), 7.38 (d, J=2.0 Hz, 2H), 7.14 (d, J=2.0 Hz, 2H), 6.70 (m, 1H), 5.83 (d, J=16.0 Hz, 1H), 5.22 (d, J=10.8 Hz, 1H); ESIMS m/z 266.12 ([M+H]+).

reactant | 4-vinylphenylboronic acid | 13 mmol, 2 g | C(=C)C1=CC=C(C=C1)B(O)O | C8H9BO2
reactant | 2-hydroxyisoindoline-1,3-dione | 24.53 mmol, 3.63 g | ON1C(C2=CC=CC=C2C1=O)=O | C8H5NO3
reactant | pyridine | 13.48 mmol, 1.065 g | N1=CC=CC=C1 | C5H5N
solvent | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
solvent | H2O | O | H2O
catalyst | CuCl | 12.26 mmol, 1.214 g | Cl[Cu]
product | 2-(4-Vinylphenoxy)isoindoline-1,3-dione | 2 g, 63% | C(=C)C1=CC=C(ON2C(C3=CC=CC=C3C2=O)=O)C=C1 | C16H11NO3
